US06992087B2
Preparation of N-(3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 8.46, 7.60, 7.17, 5.37, 5.25, 3.11-2.95, 2.75-2.61, 1.94-1.81, 1.36-1.26; (MS/CI) calcd for C16H20N4+H 269.4, found 269.3.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | N1=C2C(=CC=C1)CCC2N | C8H10N2
product | N-(3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCC=2C1=NC=CC2 | C16H20N4
